US05110952
There is described in Japanese Patent Laid-open No. 60-202155 that a known conventional method provides a low melting type 3-dibutylamino-6-methyl-7-anilinofluoran. The conventional method is as follows. 2-(4-Dibutylamino-2-hydroxybenzoyl)benzoic acid and 4-methoxy-2-methyldiphenylamine are dissolved in concentrated sulfuric acid, and the reaction is carried out at 0°-5° C. for 20 hours. After the reaction, the reaction mixture is poured into ice water, whereupon precipitates are formed. The precipitates are collected by filtration and washed with water to provide a cake of 3-(4-dibutylamino-2-hydroxyphenyl)-3-(5-anilino-2-methoxyphenyl)phthalide. The cake is added to a mixture of toluene and water, and then the mixture is neutralized with a 28% by weight aqueous solution of sodium hydroxide. A further amount of sodium hydroxide is added and then the mixture is stirred at a refluxing temperature for three hours. After the reaction, the mixture is left standing, and a toluene layer is separated and concentrated at 70° C. until a syrup is obtained. Methanol is added to the syrup so that 3-dibutylamino-6-methyl-7-anilinofluoran crystalizes out. According to the reference, the obtained compound has a melting point of 148°-152° C.

reactant | 2-(4-Dibutylamino-2-hydroxybenzoyl)benzoic acid | C(CCC)N(C1=CC(=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1)O)CCCC | C22H27NO4
reactant | 4-methoxy-2-methyldiphenylamine | CC1=C(C=CC(=C1)OC)NC2=CC=CC=C2 | C14H15NO
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 3-(4-dibutylamino-2-hydroxyphenyl)-3-(5-anilino-2-methoxyphenyl)phthalide | C(CCC)N(C1=CC(=C(C=C1)C1(OC(=O)C2=CC=CC=C12)C1=C(C=CC(=C1)NC1=CC=CC=C1)OC)O)CCCC | C35H38N2O4
